* OrCAD Model Editor - Version 9.1
*$
.SUBCKT FDC658AP 2 1 3   
*Nom Temp=25 deg C
Dbody 5 7 DbodyMOD
Dbreak 7 11 DbreakMOD
Ebreak 5 11 17 7 -33
Lgate 1 9 0.45e-9
Ldrain 2 5 0.1e-9 
Lsource 3 7 0.16e-9
RLgate 1 9 4.5
RLdrain 2 5 1
RLsource 3 7 1.6
Rgate 9 6 4.6
It 7 17 1
Rbreak 17 7 RbreakMOD 1
.MODEL RbreakMOD RES (TC1=7e-4 TC2=-2e-7)
.MODEL DbodyMOD D (IS=6.6e-12 n=1.15 RS=1.5E-3 TRS1=1e-3 TRS2=5e-7
+ CJO=2.85e-10 M=0.5 TT=1e-10 XTI=1 IKF=0.1)
.MODEL DbreakMOD D (RS=8e-2 TRS1=9e-2 TRS2=0)
Rdrain 5 16 RdrainMOD 30e-3 
.MODEL RdrainMOD RES (TC1=3e-3 TC2=1e-5)
M_BSIM3 16 6 7 7 M_MOD W=0.776 L=1.35e-6 NRS=1 NRD=0 
.MODEL  M_MOD PMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0)
***Process Parameters
+ TOX=500e-10 ;Oxide thickness
+ XJ=0.91e-6 ;Channel depth 
+ NCH=1.26e17 ;Channel concentration
***Channel Current
+ U0=250 vsat=5e5 drout=1.8 
+ DELTA=0.3 PSCBE2=1e-5 RSH=5.5e-3 
***Threshold voltage
+ VTH0=-1.8
***Sub-threshold characteristics
+ VOFF=-0.1 NFACTOR=1.5 
***Junction diodes and Capacitance
+ LINT=0.385e-6 DLC=0.385e-6 
+ CGSO=300e-12 CGSL=0 CGDO=60e-12 CGDL=220e-12 
+ CJ=0 CF=0 CKAPPA=2.4 
*** Temperature parameters
+ KT1=-1 KT2=0 UA1=9E-10 
+ NJ=10) 
.ENDS 
*FDC658AP (Rev.B) 6/11/07
*ST
*$
